US08071591B2
A mixture of (1R,3R)-N-[3-(2-pyridyl)cyclopentyl]phthalimide (4.17 g, 14.3 mmol), and hydrazinemonohydorate (2.0 mL, 41.2 mmol) in EtOH (100 mL) was stirred at reflux for 4 h. After cooling, the reaction mixture was filtered followed by the removal of solvent. The residue was suspended in EtOAc and stirred at reflux for 1 h. After cooling, the precipitate was filtered followed by the removal of solvent to yield (1R,3R)-3-(2-pyridyl)cyclopentylamine (1.62 g, 70%) as yellow oil.

reactant | (1R,3R)-N-[3-(2-pyridyl)cyclopentyl]phthalimide | 14.3 mmol, 4.17 g | N1=C(C=CC=C1)[C@H]1C[C@@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O2
solvent | EtOH | 100 mL | CCO | C2H6O
product | (1R,3R)-3-(2-pyridyl)cyclopentylamine | 1.62 g, 70% | N1=C(C=CC=C1)[C@H]1C[C@@H](CC1)N | C10H14N2
